US05852011
2-Formyl-1-methyl-4-nitroimidazole
Fuming nitric acid (3 ml) was cooled to -10° C., to which 3 ml of concentrated sulfuric acid were added dropwise. The resulting mixture was added dropwise at an internal temperature of -10° C. or lower to 0.5 g (4.54 mmol) of 2-formyl-1-methylimidazole. The temperature of the thus-obtained was naturally allowed to rise to room temperature, at which the mixture was allowed to stand overnight. The reaction mixture was poured into ice, followed by neutralization with sodium carbonate. The resultant mixture was extracted twice with methylene chloride. The organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate, dried over sodium sulfate and then concentrated. The residue was crystallized from ethyl ether/ethanol, whereby 0.21 g (1.35 mmol) of the title compound was obtained as cream-colored crystals (yield: 29.8%).

reactant | nitric acid | 3 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-formyl-1-methylimidazole | 4.54 mmol, 0.5 g | C(=O)C=1N(C=CN1)C | C5H6N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-Formyl-1-methyl-4-nitroimidazole | 1.35 mmol, 0.21 g | C(=O)C=1N(C=C(N1)[N+](=O)[O-])C | C5H5N3O3
